US06358948B1
6-(3-Fluorophenyl)-4,4-dimethyl-3,4-dihydroquinoline-2(1H)-thione
Prepared by heating under reflux overnight a mixture of 6-(3-fluorophenyl)-4,4-dimethyl-3,4-dihydroquinoline-2(1H)-one and an equal weight of phosphorus pentasulfide was stirred in pyridine. Workup as in the previous example gave a yellow solid, mp 209-211° C. 1H-NMR (DMSO-d6) δ 12.34 (s, 1H), 7.65 (d, 1H J=2.2 Hz) 7.57 (dd, 1H J1=8.24 J2=2.2 Hz), 7.51 (m, 3H), 7.18 (m, 2H), 2.84 (s, 2H), 1.26 (s, 6H). MS m/z 284 [M−H]− Anal. Calc. For C17H16FlNS: C, 71.55, H, 5.65, N, 4.91. Found: C, 71.18, H, 5.59, N, 4.82.

reactant | 6-(3-fluorophenyl)-4,4-dimethyl-3,4-dihydroquinoline-2(1H)-one | FC=1C=C(C=CC1)C=1C=C2C(CC(NC2=CC1)=O)(C)C | C17H16FNO
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-(3-Fluorophenyl)-4,4-dimethyl-3,4-dihydroquinoline-2(1H)-thione | FC=1C=C(C=CC1)C=1C=C2C(CC(NC2=CC1)=S)(C)C | C17H16FNS
